US05114944
N,N,5,7-Tetramethyl-2-phenylpyrazolo[1,5-a]pyrimidine-3-acetamide
A suspension of 3.0 g (0.011 mole) of 5,7-dimethyl-2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid and 1.73 g (0.011 mole) of 1,1'-carbonyldiimidazole in 120 ml of anhydrous tetrahydrofuran was stirred for 4 hours at room temperature while a stream of nitrogen was bubbled through the mixture. The solution was treated with a solution of dimethylamine in tetrahydrofuran (11.2 ml; 0.033 mole; 2.95M) and the mixture was stirred at room temperature for 17 hours under nitrogen. The solvent was evaporated under reduced pressure, and the residue was dissolved in dichloromethane, extracted with aqueous 7% sodium bicarbonate, and with water, dried over magnesium sulfate and evaporated under reduced pressure (4.5 g). The residue was recrystallized from isopropanol to give 2.1 g (62%) of product, mp 171°-172° C.

reactant | 5,7-dimethyl-2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid | 0.011 mole, 3.0 g | CC1=NC=2N(C(=C1)C)N=C(C2CC(=O)O)C2=CC=CC=C2 | C16H15N3O2
reactant | 1,1'-carbonyldiimidazole | 0.011 mole, 1.73 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.033 mole, 2.95M, 11.2 ml | O1CCCC1 | C4H8O
product | N,N,5,7-Tetramethyl-2-phenylpyrazolo[1,5-a]pyrimidine-3-acetamide | 2.1 g, 62% | CN(C(CC=1C(=NN2C1N=C(C=C2C)C)C2=CC=CC=C2)=O)C | C18H20N4O
